US05312916
adding a base selected from the group consisting of N,N-dibenzylamine, N,N-dibutylamine, diethanolamine, diisopropylamine, N-ethylbenzylamine, sarcosin-Na salt and N-methylbenzylamine to the reaction mixture, to produce 3-amino-9,13b-dihydro-1H-dibenz[c,f]imidazo[1,5-a]azepine;

reactant | N,N-dibenzylamine | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | N,N-dibutylamine | C(CCC)NCCCC | C8H19N
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | N-ethylbenzylamine | C(C)NCC1=CC=CC=C1 | C9H13N
reactant | N-methylbenzylamine | CNCC1=CC=CC=C1 | C8H11N
product | 3-amino-9,13b-dihydro-1H-dibenz[c,f]imidazo[1,5-a]azepine | NC1=NCC2N1C1=C(CC3=C2C=CC=C3)C=CC=C1 | C16H15N3
